US05068325
4f) 2-Amino-6-(3-(3-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine
Prepared from 3-chloro-cinnamyl chloride and 1 equivalent of 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine in chloroform in the presence of 1 equivalent of potassium carbonate. Yield: 20% of theory, Melting point: 132°-136° C.

reactant | 3-chloro-cinnamyl chloride | ClC=1C=C(C=CCCl)C=CC1 | C9H8Cl2
reactant | 2-amino-4,5,7,8-tetrahydro-6H- thiazolo[5,4-d]azepine | 1 equivalent | NC=1SC=2CCNCCC2N1 | C7H11N3S
reactant | potassium carbonate | 1 equivalent | C([O-])([O-])=O.[K+].[K+]
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 2-Amino-6-(3-(3-chloro-phenyl)allyl)-4,5,7,8-tetrahydro-6H-thiazolo[5,4-d]azepine | Yield: 20% | NC=1SC=2CCN(CCC2N1)CC=CC1=CC(=CC=C1)Cl | C16H18ClN3S
